US06369235B1
To 1-(2,6-difluorobenzyl)-2-(2,6-difluorophenyl)-4-(N-methylacetamido)benzimidazole (4005) (0.50 g, 1.17 mmol) suspended in water (9.0 mL) was added HCl (1.0 mL). After 3 h at reflux, the solution was concentrated to dryness, diluted with ethylacetate, and washed with NaHCO3 (sat. aq.) and NaCl (sat. aq.). The combined washings were dried (Na2SO4), filtered, concentrated. The crude product was purified by flash chromatography eluting with 2% methanol in CH2Cl2, yielding 1-(2,6-difluorobenzyl)-2-(2,6-difluorophenyl)-4-(N-methylamino)benzimidazole (4006) (0.35 g, 78% yield):. M.p. 194-195° C. 1H-NMR (200 MHz, CD2Cl2) δ7.52 (m, 1H, H4′), 7.23 (m, 1H, H4″), 7.13 (dd, J=8.3, 8.0 Hz, 1H, H6), 7.07 (m, 2H, H3′,5′), 6.80 (m, 2H, H3″,5″), 6.76 (d, J=8.3 Hz, 1H, H5), 6.36 (d, J=8.0 Hz, 1H, H7), 5.29 (s, 2H, CH2PhF2), 2.96 (s, 3H, NCH3).

reactant | 1-(2,6-difluorobenzyl)-2-(2,6-difluorophenyl)-4-(N-methylacetamido)benzimidazole | 1.17 mmol, 0.50 g | FC1=C(CN2C(=NC3=C2C=CC=C3N(C(C)=O)C)C3=C(C=CC=C3F)F)C(=CC=C1)F | C23H17F4N3O
reactant | HCl | 1.0 mL | Cl | ClH
solvent | water | 9.0 mL | O | H2O
product | 1-(2,6-difluorobenzyl)-2-(2,6-difluorophenyl)-4-(N-methylamino)benzimidazole | 0.35 g, 78% yield | FC1=C(CN2C(=NC3=C2C=CC=C3NC)C3=C(C=CC=C3F)F)C(=CC=C1)F | C21H15F4N3
